US04861897
To a suspension of sodium hydride (50%, 8.0 g, 164 mmol) in dimethylformamide (200 ml) was added p-hydroxybenzoic acid (10.0 g, 82 mmol) portionwise. The mixture was stirred at room temperature for two hours, treated with 1-chloro-3-bromopropane (16 ml, 164 mmol) and allowed to stir at room temperature for 48 hours. The mixture was quenched with methanol, acidified with concentrated hydrochloric acid and filtered through Celite. The filtrate was diluted with diethyl ether (500 ml), washed with water (3×200 ml) and dried over Na2SO4. The ether solution was concentrated to give 4-chloropropoxybenzoic acid (1.1 g, 6% yield) as an off-white solid, mp 136°-138° C. 1H NMR (DMSO): δ 12.00 (s, 1H), 7.88 (d, J=8.8 Hz, 2H), 7.01 (d, J=8.8 Hz, 2H), 4.24 (t, J=5.0 Hz, 2H), 3.54 (t, J=5.1 Hz, 2H), 2.23 (m, 2H).

reactant | sodium hydride | 164 mmol, 8.0 g | [H-].[Na+]
reactant | p-hydroxybenzoic acid | 82 mmol, 10.0 g | OC1=CC=C(C(=O)O)C=C1 | C7H6O3
reactant | 1-chloro-3-bromopropane | 164 mmol, 16 ml | ClCCCBr | C3H6BrCl
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 4-chloropropoxybenzoic acid | 1.1 g, 6% yield | ClCCCOC1=CC=C(C(=O)O)C=C1 | C10H11ClO3
